US07560551B2
A slurry of 1,4-dichloro-5,6,7,8-tetrahydrophthalazine (1.66 g, 8.18 mmol) and 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (2.00 g, 6.82 mmol) in 14 mL 2-BuOH was heated in a sealed pressure vessel to 110° C. The reaction became a thick mass that eventually became a stirring suspension over about 30 min. After 4 h, the reaction was cooled to ambient temperature, and the material was partitioned between 2N NaOH and EtOAc. The aqueous layer was extracted once with EtOAc. The organic layers were dried over anhyd. sodium sulfate, filtered, and concentrated to yield a brown solid. This solid was dissolved in MeOH/MC and adsorbed onto 10 g silica gel, dried, and purified by chromatography (0-100% EtOAc/DCM) to give 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-5,6,7,8-tetrahydrophthalazin-1-amine as an off-white solid. MS m/z=460 [M+H]+. Calc'd for C24H22ClN7O: 459.9.

reactant | 1,4-dichloro-5,6,7,8-tetrahydrophthalazine | 8.18 mmol, 1.66 g | ClC1=NN=C(C=2CCCCC12)Cl | C8H8Cl2N2
reactant | 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 6.82 mmol, 2.00 g | NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1 | C16H15N5O
solvent | MeOH | CO | CH4O
product | 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-5,6,7,8-tetrahydrophthalazin-1-amine | ClC1=NN=C(C=2CCCCC12)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C24H22ClN7O
